US07985753B2
6-Bromo-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 6-Bromo-isoquinoline is reacted with sodium borohydride to provide the title compound.

reactant | 6-Bromo-isoquinoline | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | sodium borohydride | [BH4-].[Na+]
product | 6-Bromo-1,2,3,4-tetrahydro-isoquinoline | BrC=1C=C2CCNCC2=CC1 | C9H10BrN
